US08802659B2
{[6-(4-tert-butyl-cyclohexyloxy)-8-methyl-naphthalen-2-ylmethyl]-amino}-acetic acid methyl ester
A solution of 6-(4-tert-butyl-cyclohexyloxy)-8-methyl-naphthalene-2-carbaldehyde (50 mg, 0.15 mmol), glycine methyl ester, hydrochloride (27 mg, 0.22 mmol) and N,N-diisopropylethylamine (DIEA) (34 uL) in 1,2-dichloroethane (2 mL) was stirred for 1 hour at room temperature. Then sodium triacetoxyborohydride (52 mg, 0.25 mmol) was added and stirred for 3 hrs. The reaction was diluted with methylene chloride and washed with saturated sodium bicarbonate aqueous, dried over MgSO4, filtered, and concentrated. The crude was purified via silica gel column chromatography eluted 0-5% MeOH in methylene chloride to give the light brown solid (53 mg, yield: 86%). ESI-MS: 420.30 (M+23)+.

reactant | 6-(4-tert-butyl-cyclohexyloxy)-8-methyl-naphthalene-2-carbaldehyde | 0.15 mmol, 50 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=C(C1)C)C=O | C22H28O2
reactant | glycine methyl ester, hydrochloride | 0.22 mmol, 27 mg | Cl.COC(CN)=O
reactant | N,N-diisopropylethylamine | 34 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium triacetoxyborohydride | 0.25 mmol, 52 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | {[6-(4-tert-butyl-cyclohexyloxy)-8-methyl-naphthalen-2-ylmethyl]-amino}-acetic acid methyl ester | 53 mg, yield: 86% | COC(CNCC1=CC2=C(C=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)C)=O | C25H35NO3
